US06384234B1
Preparation of (6S-cis)-1-chloro-N-[2-chloro-4-fluoro-5-(6-fluorotetrahydro-1,3-dioxo-1H-pyrrolo[1,2-c]imidazol-2(3H)-yl)phenyl]methanesulfonamide
Crude (2R-trans)-1-[[[4-chloro-5-[[(chloromethyl)sulfonyl]amino]-2-fluorophenyl]amino]carbonyl]-4-fluoro-2-pyrrolidinecarboxylic acid (173.43 g) was suspended in 550 mL of dichloromethane and 0.65 mL (0.61 g, 8.4 mmol) of N,N-dimethylformamide was added, followed by the dropwise addition of 58 mL (95 g, 0.80 mol) of thionyl chloride at room temperature, and stirring was continued at room temperature. After 2.5 hours, the mixture became homogeneous. After 22 hours, the mixture was poured into 500 mL of ice-water, the layers were separated and the aqueous layer was extracted with dichloromethane (twice with 75 mL). The organic layers were combined, washed with saturated aqueous sodium bicarbonate (twice with 400 mL), dried over magnesium sulfate and evaporated under reduced pressure to afford 140.69 g of the crude title compound (84.7% yield from the isocyanate).

reactant | (2R-trans)-1-[[[4-chloro-5-[[(chloromethyl)sulfonyl]amino]-2-fluorophenyl]amino]carbonyl]-4-fluoro-2-pyrrolidinecarboxylic acid | 173.43 g | ClC1=CC(=C(C=C1NS(=O)(=O)CCl)NC(=O)N1[C@H](C[C@@H](C1)F)C(=O)O)F | C13H13Cl2F2N3O5S
reactant | thionyl chloride | 0.80 mol, 58 mL, 95 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 550 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 8.4 mmol, 0.65 mL, 0.61 g | CN(C=O)C | C3H7NO
product | (6S-cis)-1-chloro-N-[2-chloro-4-fluoro-5-(6-fluorotetrahydro-1,3-dioxo-1H-pyrrolo[1,2-c]imidazol-2(3H)-yl)phenyl]methanesulfonamide | 140.69 g, 84.7% yield | ClCS(=O)(=O)NC1=C(C=C(C(=C1)N1C(N2[C@@H](C1=O)C[C@@H](C2)F)=O)F)Cl | C13H11Cl2F2N3O4S
